US07259183B2
560 mg (2.43 mmol) of 7-bromo-4-chloro-1H-indole were dissolved in 15 ml THF. The reaction mixture was cooled to −78° C. and 4.55 ml of a 1.6 M butyl lithium solution in hexane were added under nitrogen in such a way, that the temperature did not exceed a maximum of −70° C. The yellow solution was stirred at 0 to 5° C. after complete addition for 30 min. The reaction mixture was cooled to −78° C. and dry ice was added. The reaction mixture was warmed to rt, stirred for 15 min and poured onto 100 ml water. The aqueous layer was washed twice with diethyl ether, acidified with 1N aqueous HCl solution and extracted twice with diethyl ether. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated. The crude residue was stirred with hexane for 15 min, filtered and dried to yield 319 mg (67%) of 4-chloro-1H-indole-7-carboxylic acid as an off-white solid. MS (ISP) 194.1 (M−H)−.

reactant | 7-bromo-4-chloro-1H-indole | 2.43 mmol, 560 mg | BrC=1C=CC(=C2C=CNC12)Cl | C8H5BrClN
reactant | butyl lithium | 1.6 M | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | water | 100 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-chloro-1H-indole-7-carboxylic acid | 319 mg, 67% | ClC1=C2C=CNC2=C(C=C1)C(=O)O | C9H6ClNO2
